US05861109
3-fluoro-4-octoxyphenylboronic acid
This was prepared using a similar method to that described for compound 5. Quantities: 1-bromo-3-fluoro-4-octoxybenzene (15 g, 0.05 mol), n-butyllithium (5 ml, 10M in hexane, 0.05 mol), tri-isopropylborate (18.81 g, 0.1 mol).

reactant | 1-bromo-3-fluoro-4-octoxybenzene | 0.05 mol, 15 g | BrC1=CC(=C(C=C1)OCCCCCCCC)F | C14H20BrFO
reactant | n-butyllithium | 0.05 mol, 10M, 5 ml | C(CCC)[Li]
reactant | tri-isopropylborate | 0.1 mol, 18.81 g | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
product | 3-fluoro-4-octoxyphenylboronic acid | FC=1C=C(C=CC1OCCCCCCCC)B(O)O | C14H22BFO3
